.INCLUDE ./model/32nm_HP.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Definizione dei parametri
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n
.PARAM NandP=4
.PARAM NandN=2
.PARAM NorP=4
.PARAM InvP=2

.TEMP 85

M1 out in2 Vdd Vdd pmos W={Wmin*NandP} L={Lmin} 
M2 out in1 Vdd Vdd pmos W={Wmin*NandP} L={Lmin} 
M3 x in2 0 0 nmos W={Wmin*NandN} L={Lmin} 
M4 out in1 x 0 nmos W={Wmin*NandN} L={Lmin} 

v1 Vdd 0 1.0
va in1 0 1
vb in2 0 1

.CONTROL 
dc TEMP 85 86 10
print V(out)

.ENDC
.END