*CONDUCTION NMOS W1

.INCLUDE ./model/32nm_HP.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Definizione dei parametri
.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM Ldiff=44n

.TEMP 85

.PARAM NandP=4
.PARAM NandN=2
.PARAM NorP=4
.PARAM InvP=2

*Section A
*p3n + p2n 
A_Nor1_Mna A_Nor1_out P3n 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
A_Nor1_Mnb A_Nor1_out P2n 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
A_Nor1_Mpa A_Nor1_out P3n A_Nor1_Mpa_x 1 pmos W={Wmin*NorP} L={Lmin} AS={Wmin*NorP*Ldiff} AD={Wmin*NorP*Ldiff} PS={2*(Ldiff+Wmin*NorP)} PD={2*(Ldiff+Wmin*NorP)}
A_Nor1_Mpb A_Nor1_Mpa_x P2n 1 1 pmos W={Wmin*NorP} L={Lmin} AS={Wmin*NorP*Ldiff} AD={Wmin*NorP*Ldiff} PS={2*(Ldiff+Wmin*NorP)} PD={2*(Ldiff+Wmin*NorP)}

*p1n + p0n 
A_Nor2_Mna A_Nor2_out P1n 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
A_Nor2_Mnb A_Nor2_out P0n 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
A_Nor2_Mpa A_Nor2_out P1n A_Nor2_Mpa_x 1 pmos W={Wmin*NorP} L={Lmin} AS={Wmin*NorP*Ldiff} AD={Wmin*NorP*Ldiff} PS={2*(Ldiff+Wmin*NorP)} PD={2*(Ldiff+Wmin*NorP)}
A_Nor2_Mpb A_Nor2_Mpa_x P0n 1 1 pmos W={Wmin*NorP} L={Lmin} AS={Wmin*NorP*Ldiff} AD={Wmin*NorP*Ldiff} PS={2*(Ldiff+Wmin*NorP)} PD={2*(Ldiff+Wmin*NorP)}

*p3n + p2n + p1n + p0n = P
A_Nor3_Mna P A_Nor1_out 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
A_Nor3_Mnb P A_Nor2_out 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
A_Nor3_Mpa P A_Nor1_out A_Nor3_x 1 pmos W={Wmin*NorP} L={Lmin} AS={Wmin*NorP*Ldiff} AD={Wmin*NorP*Ldiff} PS={2*(Ldiff+Wmin*NorP)} PD={2*(Ldiff+Wmin*NorP)}
A_Nor3_Mpb A_Nor3_x A_Nor2_out 1 1 pmos W={Wmin*NorP} L={Lmin} AS={Wmin*NorP*Ldiff} AD={Wmin*NorP*Ldiff} PS={2*(Ldiff+Wmin*NorP)} PD={2*(Ldiff+Wmin*NorP)}

*Pn
A_Not1_Mp Pn P 1 1 pmos W={Wmin*InvP} L={Lmin} AS={Wmin*InvP*Ldiff} AD={Wmin*InvP*Ldiff} PS={2*(Ldiff+Wmin*InvP)} PD={2*(Ldiff+Wmin*InvP)}
A_Not1_Mn Pn P 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

VG0n G0n 0 1
VG1n G1n 0 1
VG2n G2n 0 1
VG3n G3n 0 1

VP0n P0n 0 1
VP1n P1n 0 1
VP2n P2n 0 1
VP3n P3n 0 1

VCnn Cnn 0 1



*Definizione del tipo di analisi
.CONTROL
dc TEMP 85 86 10
print I(VG0n)

.ENDC
.END
