*Leakage current/power in NAND2 cell
*.INCLUDE ../model/45nm_MGK.pm
*.INCLUDE ../model/32nm_MGK.pm
.INCLUDE ./model/32nm_MGK.pm


.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM XX=1
.PARAM tr=50p

Mp1	nodeZ	nodea	node1	node1	pmos	W={2*XX*Wmin}	L={Lmin}
Mp2	nodeZ	nodeb	node1	node1	pmos	W={2*XX*Wmin}	L={Lmin}

Mn1	node4	nodeb	0	0	nmos	W={2*XX*Wmin}	L={Lmin}
Mn2	nodeZ	nodea	node4	0	nmos	W={2*XX*Wmin}	L={Lmin}

Vdd 	node1 	0 	1

Vina nodea 0 1
Vinb nodeb 0 1

*Definition of type of analysis
.CONTROL
dc TEMP 30 31 60
print V(nodeZ)
.ENDC
.END
