
*Leakage current/power in NAND2 cell
.INCLUDE ../model/32nm_HP.pm


.PARAM Lmin=22n
.PARAM Wmin=22n
.PARAM XX=1
.PARAM tr=50p

Mp1	node4	nodea	node1	node1	pmos	W={2*XX*Wmin}	L={Lmin} 
Mp2	nodeZ	nodeb	node1	node1	pmos	W={2*XX*Wmin}	L={Lmin}

Mn1	nodeZ	nodeb	0	0	nmos	W={2*XX*Wmin}	L={Lmin} 
Mn2	nodeZ	nodea	0	0	nmos	W={2*XX*Wmin}	L={Lmin} 

Vdd 	node1 	0 	1

Vina nodea 0 0
Vinb nodeb 0 0

*Definition of type of analysis
.CONTROL
foreach Vddbasic 1.0
*let Vddbasic = 1
echo _|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_
echo _|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_
echo Vdd basic = $Vddbasic
alter Vdd = $Vddbasic
foreach width 22n 
    echo 
	echo _|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_|_
	echo
	echo WMIN=$width
	echo

	    foreach input 0 $Vddbasic
 	    	alter Vina = $input
 	    		foreach input 0 $Vddbasic 
				alter Vinb = $input
			                    echo DC Analysis at 85C 
		                        	dc TEMP 85 86 10
			                    		print V(nodeZ) V(nodea) V(nodeb) I(Vdd) I(Vina) I(Vinb)

			                    
							
			    	
	        	end
	    end	 
end
end
.ENDC
.END

