.subckt nand4 in1 in2 in3 in4 out Vdd
.include ./nand2.sub

X1 in1 in2 o1 Vdd nand2
X2 o1 o1 o2 Vdd nand2

X3 in3 in4 o3 Vdd nand2
X4 o3 o3 o4 Vdd nand2


X5 o2 o4 out Vdd nand2

.ends 