.subckt nor4 in1 in2 in3 in4 out Vdd
.include ./nor2.sub

X1 in1 in2 o1 Vdd nor2
X2 o1 o1 o2 Vdd nor2

X3 in3 in4 o3 Vdd nor2
X4 o3 o3 o4 Vdd nor2


X5 o2 o4 out Vdd nor2

.ends 